US03931179
A mixture of 1.99 g. of 4,7-dichloroquinazoline, 0.79 g. of 1,9-diaminononane, 2.5 g. of sodium carbonate and 25 ml. of isopropanol is stirred at room temperature for 2 hours. The reaction mixture is then diluted with 100 ml. of chloroform, filtered and concentrated in vacuo. The solid residue is crystallized from ethanol to obtain N,N'-bis(7-chloro-4-quinazolinyl)-1,9-nonanediamine, m.p. 190°-192°C. which is readily converted into dimethanesulfonate acid addition salt form which melts at 159°-162°C. on crystallization from ethanol/ether.

reactant | 4,7-dichloroquinazoline | ClC1=NC=NC2=CC(=CC=C12)Cl | C8H4Cl2N2
reactant | 1,9-diaminononane | NCCCCCCCCCN | C9H22N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | N,N'-bis(7-chloro-4-quinazolinyl)-1,9-nonanediamine | ClC1=CC=C2C(=NC=NC2=C1)NCCCCCCCCCNC1=NC=NC2=CC(=CC=C12)Cl | C25H28Cl2N6
